US06133279
In 200 ml of chloroform was dissolved 10.0 g of 4-acetoxy-3,5-di-t-butyl-2-(2-methyl-2-propenyl)phenol synthesized according to JP 7-330759/95 and 11.0 g of m-chloroperbenzoic acid was added, and the mixture was heated under reflux for 24 hours. After cooling, the reaction solution was combined with a saturated aqueous solution of sodium thiosulfate and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with n-hexane containing 25% ethyl acetate to give 7.3 g of 5-acetoxy-4,6-di-t-butyl-2-hydroxymethyl-2-methyl-2,3-dihydrobenzofuran (rotamer mixture) as a colorless oil (yield 70%).

reactant | 4-acetoxy-3,5-di-t-butyl-2-(2-methyl-2-propenyl)phenol | 10.0 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)CC(=C)C)C(C)(C)C | C20H30O3
reactant | m-chloroperbenzoic acid | 11.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-acetoxy-4,6-di-t-butyl-2-hydroxymethyl-2-methyl-2,3-dihydrobenzofuran | 7.3 g, yield 70% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CO)C1C(C)(C)C)C(C)(C)C | C20H30O4
